US08349851B2
To a solution of (4-chloroquinazolin-2-yl)(4-fluorophenyl)methanone (84 mg, 0.30 mmol) in DMF (3mL) were added DIEA (0.103 mL, 0.6 mmol) and 5-methyl-1H-pyrazol-3-amine (88 mg, 0.9 mmol at rt. The reaction mixture was heated at 40° C. overnight. The reaction was quenched by adding water and the yellow precipitate was collected by filtration and washed with water. The crude product was purified by silica gel chromatography eluting with DCM/MeOH to give (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone (30 mg, 29%). 1H NMR (300 MHz, DMSO-d6) δ 2.19 (s, 3H), 6.54 (s, 1H), 7.40 (m, 2H), 7.68 (t, 1H), 7.9-7.7 (m, 2H), 8.08 (m, 2H), 8.74 (d, 1H), 10.66 (s, 1H), 12.20 (s, 1H);LC-MS (ESI) m/z 348 (M+H)+.

reactant | (4-chloroquinazolin-2-yl)(4-fluorophenyl)methanone | 0.30 mmol, 84 mg | ClC1=NC(=NC2=CC=CC=C12)C(=O)C1=CC=C(C=C1)F | C15H8ClFN2O
reactant | DIEA | 0.6 mmol, 0.103 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | CC1=CC(=NN1)N | C4H7N3
solvent | DMF | 3mL | CN(C)C=O | C3H7NO
product | (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 30 mg, 29% | FC1=CC=C(C=C1)C(=O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H14FN5O
